data/oMe_Silver.jsonl
{"reaction_id": "NR-114_1-C(F)(F)F","level": "medium","name": "Hunsdiecker Reaction","reactants_smiles": ["[Ag+].O=C([O-])(C(F)(F)F)","BrBr"],"products_smiles": ["[Br](C(F)(F)F)"],"conditions": "hν or Heat","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "O=C(OBr)(C(F)(F)F)","step_weight": 0,"rationale": "Silver carboxylate acts as a nucleophile toward bromine, forming the acyl hypobromite due to the high electrophilicity of bromine and the good leaving ability of AgBr."},{"step": 2,"type": "radical","subtype": "radical_initiation","intermediate_smiles": "O=C([O])(C(F)(F)F)","step_weight": 0,"rationale": "Heat or light induces homolytic cleavage of the weak O–Br bond in the hypobromite, generating an acyloxy radical and bromine radical."},{"step": 3,"type": "elimination","subtype": "radical_elimination","intermediate_smiles": "[C](C(F)(F)F)","step_weight": 0,"rationale": "The acyloxy radical rapidly decarboxylates, driven by CO₂ release and formation of a more stable alkyl radical."},{"step": 4,"type": "substitution","subtype": "radical_substitution","intermediate_smiles": "[Br](C(F)(F)F)","step_weight": 0,"rationale": "The alkyl radical reacts with bromine radical to form the alkyl bromide, favored by the strong C–Br bond formation and radical recombination kinetics."}],"description": "In the Hunsdiecker reaction, a silver carboxylate reacts with bromine under heat or light to form an alkyl bromide via radical decarboxylation. The process involves initial formation of an acyl hypobromite, homolytic cleavage to generate radicals, CO₂ loss, and radical recombination with bromine."}
{"reaction_id": "NG-005_1-c1ccccc1_2-c1cnccn1_3-C=C","name": "Acid-catalyzed Aldol condensation","level": "medium","reactants_smiles": ["C(c1ccccc1)C=O","C(c1cnccn1)(C=C)=O"],"products_smiles": ["C(c1cnccn1)(C=C)=C(C=O)c1ccccc1"],"conditions": "Acid (H3O+)","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccccc1)=C(O)c1cnccn1","rationale": "Acid protonates the carbonyl oxygen, increasing electrophilicity and facilitating enol formation via resonance-stabilized cation."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1cnccn1)(C=C)=[OH+]","rationale": "Protonation of the second carbonyl increases its electrophilicity, making it more susceptible to nucleophilic attack by the enol."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1cnccn1)(C=C)(O)C(C=[OH+])c1ccccc1","rationale": "The nucleophilic α-carbon of the enol attacks the protonated carbonyl, favored by strong electrophile activation and conjugation potential."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1cnccn1)(C=C)(O)C(C=O)c1ccccc1","rationale": "Proton transfer restores the neutral β-hydroxyketone, stabilizing the intermediate through hydrogen bonding and resonance."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1cnccn1)(C=C)([OH2+])C(C=O)c1ccccc1","rationale": "Protonation of the β-hydroxy group converts it into a better leaving group (water) under acidic conditions."},{"step": 6,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1cnccn1)(C=C)=C(C=O)c1ccccc1","rationale": "Loss of water forms a conjugated α,β-unsaturated carbonyl, thermodynamically favored due to extended π-system stabilization."}],"description": "Under acidic conditions, one carbonyl is activated toward enolization, while the other is protonated to enhance electrophilicity. The enol attacks the activated carbonyl, forming a β-hydroxyketone intermediate, which then undergoes acid-catalyzed dehydration to yield the α,β-unsaturated carbonyl product."}
